* NGSPICE file created from NO_ClkGen.ext - technology: gf180mcuD

.subckt NO_ClkGen_pex PHI_2 CLK PHI_1 VDD VSS
X0 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN clk.t0 vdd.t21 vdd.t20 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X1 phi_2.t0 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN vdd.t13 vdd.t12 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X2 vdd.t1 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I vdd.t0 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X3 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN clk.t1 vss.t19 vss.t18 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X4 vss.t5 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I vss.t4 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X5 vdd.t11 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN vdd.t10 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X6 vdd.t3 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I vdd.t2 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X7 vdd.t5 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I vdd.t4 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X8 phi_1.t0 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN vdd.t36 vdd.t35 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X9 vss.t11 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN vss.t10 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X10 vss.t26 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I vss.t25 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X11 vdd.t42 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I vdd.t41 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X12 vss.t28 gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I vss.t27 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X13 vdd.t34 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN vdd.t33 pfet_05v0 ad=0.7238p pd=4.17u as=0.4277p ps=2.165u w=1.645u l=0.5u
X14 gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN vss.t39 vss.t38 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X15 vss.t17 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I vss.t16 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X16 phi_1.t1 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN vss.t35 vss.t34 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X17 vss.t30 phi_2.t2 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN vss.t29 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X18 vdd.t28 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I vdd.t27 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X19 vdd.t26 gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 vdd.t25 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X20 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 a_n715_n358# vss.t20 nfet_05v0 ad=0.5808p pd=3.52u as=0.2112p ps=1.64u w=1.32u l=0.6u
X21 vss.t3 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I vss.t2 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X22 a_n715_n358# gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN vss.t9 vss.t8 nfet_05v0 ad=0.2112p pd=1.64u as=0.5808p ps=3.52u w=1.32u l=0.6u
X23 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN a_n155_n358# vss.t33 nfet_05v0 ad=0.5808p pd=3.52u as=0.2112p ps=1.64u w=1.32u l=0.6u
X24 vss.t41 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I vss.t40 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X25 phi_2.t1 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN vss.t13 vss.t12 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X26 vdd.t7 phi_1.t2 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN vdd.t6 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X27 vss.t24 gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 vss.t23 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X28 vss.t7 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I vss.t6 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X29 gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN vdd.t40 vdd.t39 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X30 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN vdd.t38 vdd.t37 pfet_05v0 ad=0.4277p pd=2.165u as=0.7238p ps=4.17u w=1.645u l=0.5u
X31 vss.t32 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I vss.t31 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X32 vss.t22 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I vss.t21 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X33 vdd.t32 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I vdd.t31 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X34 vdd.t15 phi_2.t3 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN vdd.t14 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X35 vdd.t22 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN vdd pfet_05v0 ad=0.7238p pd=4.17u as=0.4277p ps=2.165u w=1.645u l=0.5u
X36 a_n155_n358# gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN vss.t37 vss.t36 nfet_05v0 ad=0.2112p pd=1.64u as=0.5808p ps=3.52u w=1.32u l=0.6u
X37 vdd.t30 gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I vdd.t29 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X38 vss.t15 gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I vss.t14 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X39 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN vdd.t9 vdd.t8 pfet_05v0 ad=0.4277p pd=2.165u as=0.7238p ps=4.17u w=1.645u l=0.5u
X40 vdd.t19 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I vdd.t18 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X41 vdd.t24 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I vdd.t23 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X42 vdd.t17 gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I vdd.t16 pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X43 vss.t1 phi_1.t3 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN vss.t0 nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
R0 clk.n0 clk.t0 23.3605
R1 clk.n0 clk.t1 15.2818
R2 clk.n1 clk 5.06928
R3 clk.n1 clk.n0 4.0005
R4 clk clk.n1 0.065418
R5 vdd.t10 vdd.n26 569.302
R6 vdd vdd.t6 503.901
R7 vdd vdd.t27 503.901
R8 vdd vdd.t0 503.901
R9 vdd vdd.t29 503.901
R10 vdd vdd.t18 503.901
R11 vdd vdd.t2 503.901
R12 vdd.t14 vdd.t35 220.155
R13 vdd.t4 vdd.t12 220.155
R14 vdd.t6 vdd 195.008
R15 vdd.t27 vdd 195.008
R16 vdd.t0 vdd 195.008
R17 vdd.t29 vdd 195.008
R18 vdd.t18 vdd 195.008
R19 vdd.t2 vdd 195.008
R20 vdd vdd.t10 195.008
R21 vdd.t16 vdd.t33 163.566
R22 vdd vdd.n6 137.209
R23 vdd vdd.t23 96.8997
R24 vdd vdd.t41 96.8997
R25 vdd.t39 vdd 96.8997
R26 vdd vdd.t25 96.8997
R27 vdd.t20 vdd 96.8997
R28 vdd.t33 vdd 86.8222
R29 vdd.t8 vdd 82.171
R30 vdd vdd.t37 71.3183
R31 vdd.t23 vdd.t8 61.2408
R32 vdd.n7 vdd.t14 60.4656
R33 vdd.t31 vdd 56.5896
R34 vdd.t41 vdd.t39 46.5121
R35 vdd.t25 vdd.t20 46.5121
R36 vdd.n7 vdd 36.4346
R37 vdd.t35 vdd 30.2331
R38 vdd vdd.t4 30.2331
R39 vdd.t12 vdd 30.2331
R40 vdd vdd.t16 30.2331
R41 vdd.t37 vdd.t31 25.5819
R42 vdd.n16 vdd.t22 15.5636
R43 vdd.n13 vdd.t34 15.5636
R44 vdd.n24 vdd.n6 10.7609
R45 vdd.n23 vdd.n6 4.55932
R46 vdd.n8 vdd.n7 4.55932
R47 vdd.n0 vdd.t7 4.06751
R48 vdd.n18 vdd.t9 3.90058
R49 vdd.n15 vdd.t38 3.90058
R50 vdd vdd.t15 3.84851
R51 vdd.n9 vdd.t5 3.84351
R52 vdd.n11 vdd.t17 3.84351
R53 vdd.n14 vdd.t32 3.84351
R54 vdd.n17 vdd.t24 3.84351
R55 vdd.n19 vdd.t42 3.84351
R56 vdd.n21 vdd.t26 3.84351
R57 vdd.n22 vdd.t21 3.84351
R58 vdd.n20 vdd.t40 3.84351
R59 vdd.n12 vdd.t13 3.84351
R60 vdd.n10 vdd.t36 3.84351
R61 vdd.n0 vdd.t28 3.84351
R62 vdd.n1 vdd.t1 3.84351
R63 vdd.n2 vdd.t30 3.84351
R64 vdd.n3 vdd.t19 3.84351
R65 vdd.n4 vdd.t3 3.84351
R66 vdd.n5 vdd.t11 3.84351
R67 vdd.n26 vdd.n25 1.2465
R68 vdd.n26 vdd.n5 0.2305
R69 vdd.n1 vdd.n0 0.2245
R70 vdd.n2 vdd.n1 0.2245
R71 vdd.n3 vdd.n2 0.2245
R72 vdd.n4 vdd.n3 0.2245
R73 vdd.n5 vdd.n4 0.2245
R74 vdd.n25 vdd.n24 0.1145
R75 vdd vdd.n13 0.05075
R76 vdd.n23 vdd.n22 0.0495
R77 vdd.n21 vdd.n20 0.0465
R78 vdd.n19 vdd.n18 0.04175
R79 vdd.n16 vdd.n15 0.0385
R80 vdd.n18 vdd 0.03825
R81 vdd vdd.n14 0.0335
R82 vdd vdd.n19 0.0335
R83 vdd.n20 vdd 0.0335
R84 vdd vdd.n21 0.0335
R85 vdd.n22 vdd 0.0335
R86 vdd.n17 vdd.n16 0.03175
R87 vdd vdd.n8 0.0265
R88 vdd.n9 vdd 0.0235
R89 vdd vdd.n10 0.0235
R90 vdd.n11 vdd 0.0235
R91 vdd vdd.n12 0.0235
R92 vdd.n13 vdd 0.02025
R93 vdd vdd.n17 0.0195
R94 vdd.n10 vdd.n9 0.0105
R95 vdd.n12 vdd.n11 0.0105
R96 vdd.n15 vdd 0.01025
R97 vdd.n14 vdd 0.0095
R98 vdd.n25 vdd 0.006
R99 vdd.n8 vdd 0.0025
R100 vdd vdd.n23 0.0025
R101 vdd.n24 vdd 0.0025
R102 phi_2.n1 phi_2.t3 23.3605
R103 phi_2.n1 phi_2.t2 15.2818
R104 phi_2.n2 phi_2 6.08728
R105 phi_2 phi_2.n0 4.68021
R106 phi_2 phi_2.t1 4.63372
R107 phi_2.n2 phi_2.n1 4.0005
R108 phi_2.n0 phi_2.t0 3.59504
R109 phi_2.n0 phi_2 0.75942
R110 phi_2 phi_2.n2 0.065418
R111 vss.n24 vss.n23 2.88628e+06
R112 vss.n24 vss.n2 19396
R113 vss.n23 vss 17420
R114 vss.t23 vss.n2 2226.52
R115 vss.t29 vss 1987.11
R116 vss.t6 vss 1987.11
R117 vss.t14 vss 1987.11
R118 vss.t31 vss 1987.11
R119 vss.t21 vss 1987.11
R120 vss.t40 vss 1987.11
R121 vss.n25 vss.n24 939.688
R122 vss.t0 vss.t34 909.761
R123 vss.t25 vss.t12 909.761
R124 vss.n23 vss 858.886
R125 vss vss.t29 694.292
R126 vss vss.t6 694.292
R127 vss vss.t14 694.292
R128 vss vss.t31 694.292
R129 vss vss.t21 694.292
R130 vss vss.t40 694.292
R131 vss vss.t23 694.292
R132 vss.t2 vss.t33 691.298
R133 vss vss.n1 526.703
R134 vss.t8 vss 350.139
R135 vss vss.t4 347.147
R136 vss.t38 vss 347.147
R137 vss vss.t10 347.147
R138 vss.t18 vss 347.147
R139 vss.t20 vss.t16 314.228
R140 vss.t33 vss 302.257
R141 vss.t27 vss 251.381
R142 vss vss.t36 248.389
R143 vss.t4 vss.t38 239.411
R144 vss.t10 vss.t18 239.411
R145 vss.t16 vss.t8 236.418
R146 vss.n22 vss.t0 203.5
R147 vss vss.n22 143.647
R148 vss.t36 vss.t27 98.7574
R149 vss.t34 vss 83.7942
R150 vss vss.t25 83.7942
R151 vss.t12 vss 83.7942
R152 vss vss.t2 83.7942
R153 vss vss.t20 32.9195
R154 vss.n25 vss.n1 23.9416
R155 vss.n19 vss.t35 4.63989
R156 vss.n17 vss.t13 4.63989
R157 vss.n11 vss.t39 4.63989
R158 vss.n27 vss.t19 4.63989
R159 vss.n3 vss.t24 4.63989
R160 vss.n4 vss.t41 4.63989
R161 vss.n5 vss.t22 4.63989
R162 vss.n6 vss.t32 4.63989
R163 vss.n7 vss.t15 4.63989
R164 vss.n8 vss.t7 4.63989
R165 vss.n9 vss.t30 4.63989
R166 vss.n0 vss.t11 4.63989
R167 vss.n12 vss.t5 4.63989
R168 vss.n14 vss.t17 4.63989
R169 vss.n16 vss.t28 4.63989
R170 vss.n18 vss.t3 4.63989
R171 vss.n20 vss.t26 4.63989
R172 vss.n10 vss.t1 4.63989
R173 vss.n15 vss.t37 4.51271
R174 vss.n13 vss.t9 4.51271
R175 vss.n3 vss.n2 3.8694
R176 vss vss.n25 3.6314
R177 vss.n22 vss.n21 3.6294
R178 vss.n26 vss.n1 3.6294
R179 vss.n10 vss 0.6985
R180 vss vss.n9 0.5405
R181 vss.n9 vss.n8 0.2245
R182 vss.n8 vss.n7 0.2245
R183 vss.n7 vss.n6 0.2245
R184 vss.n6 vss.n5 0.2245
R185 vss.n5 vss.n4 0.2245
R186 vss.n4 vss.n3 0.2245
R187 vss.n15 vss.n14 0.06475
R188 vss.n27 vss.n26 0.0445
R189 vss.n16 vss 0.0385
R190 vss.n12 vss 0.0385
R191 vss vss.n11 0.0385
R192 vss vss.n0 0.0385
R193 vss vss.n27 0.0385
R194 vss vss.n13 0.03825
R195 vss.n13 vss.n12 0.03675
R196 vss.n11 vss.n0 0.0365
R197 vss.n21 vss 0.0265
R198 vss.n14 vss 0.0245
R199 vss.n20 vss.n19 0.0205
R200 vss.n18 vss.n17 0.0205
R201 vss vss.n20 0.0185
R202 vss.n19 vss 0.0185
R203 vss vss.n18 0.0185
R204 vss.n17 vss 0.0185
R205 vss vss.n10 0.0105
R206 vss vss.n15 0.01025
R207 vss vss.n16 0.0045
R208 vss.n21 vss 0.0025
R209 vss.n26 vss 0.0025
R210 phi_1.n1 phi_1.t2 23.3605
R211 phi_1.n1 phi_1.t3 15.2818
R212 phi_1.n2 phi_1 5.7875
R213 phi_1 phi_1.n0 4.61551
R214 phi_1.n0 phi_1.t1 4.39141
R215 phi_1 phi_1.t0 4.35396
R216 phi_1.n2 phi_1.n1 4.0005
R217 phi_1.n0 phi_1 0.242808
R218 phi_1 phi_1.n2 0.0619139
C0 clk gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I 0.00205f
C1 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 vdd 1.0312f
C2 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I 0.00325f
C3 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN a_n715_n358# 0.00424f
C4 gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I 0
C5 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I 0.31368f
C6 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.00235f
C7 vdd gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.47866f
C8 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0.11878f
C9 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I 0.31368f
C10 phi_2 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0.20255f
C11 gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN vdd 0.42352f
C12 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I 0.00336f
C13 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I phi_1 0.00475f
C14 gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0
C15 phi_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0.01038f
C16 phi_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN 0
C17 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN phi_1 0.00193f
C18 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN a_n155_n358# 0.00977f
C19 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN a_n155_n358# 0.00215f
C20 gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I phi_1 0.00173f
C21 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I 0.00689f
C22 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I 0
C23 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN a_n715_n358# 0.01011f
C24 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I 0.31368f
C25 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I vdd 0.43554f
C26 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I vdd 0.43616f
C27 clk gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I 0.00205f
C28 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.06196f
C29 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.00404f
C30 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 0.00511f
C31 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 0.0844f
C32 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0.31368f
C33 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN vdd 0.43213f
C34 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0.00228f
C35 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN vdd 0.67762f
C36 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN 0
C37 gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I vdd 0.43488f
C38 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.51309f
C39 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN vdd 0.44348f
C40 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.36512f
C41 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I 0.02265f
C42 gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.03711f
C43 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0.36183f
C44 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN phi_1 0.29979f
C45 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I vdd 0.44561f
C46 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN a_n155_n358# 0.00194f
C47 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0.00118f
C48 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN phi_1 0.31573f
C49 clk gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 0.01743f
C50 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I phi_1 0
C51 clk vdd 0.4656f
C52 phi_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I 0.0029f
C53 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0.59258f
C54 gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I 0
C55 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN vdd 0.57265f
C56 clk gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.01149f
C57 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I 0
C58 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I 0.00357f
C59 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.08069f
C60 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I 0.31368f
C61 clk gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0
C62 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0.00133f
C63 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0.05663f
C64 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 0
C65 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN 0.03138f
C66 vdd gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0.44655f
C67 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN vdd 0.435f
C68 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I vdd 0.4353f
C69 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I 0.00531f
C70 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.00179f
C71 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.06255f
C72 phi_2 phi_1 0.10359f
C73 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0.00207f
C74 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I 0
C75 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I 0.34478f
C76 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 0.04452f
C77 gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I vdd 0.44785f
C78 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I vdd 0.44445f
C79 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I 0.00433f
C80 gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0
C81 phi_2 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 0.00446f
C82 clk gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN 0.37653f
C83 phi_2 vdd 0.92614f
C84 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN 0.00161f
C85 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0.14966f
C86 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0.32586f
C87 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I 0.00152f
C88 phi_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.00508f
C89 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0
C90 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I 0.31368f
C91 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I 0.31368f
C92 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN 0
C93 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0.00296f
C94 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0
C95 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I 0.00153f
C96 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I 0.00302f
C97 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 a_n715_n358# 0
C98 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I 0.31368f
C99 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0.31368f
C100 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN 0
C101 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I vdd 0.44386f
C102 vdd a_n715_n358# 0
C103 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0
C104 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I 0
C105 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I 0
C106 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I 0
C107 clk gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0
C108 gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN a_n715_n358# 0
C109 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I vdd 0.44038f
C110 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I 0.00175f
C111 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN 0.00236f
C112 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.3626f
C113 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 phi_1 0
C114 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN phi_2 0.30919f
C115 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN phi_2 0
C116 vdd phi_1 0.4673f
C117 a_n155_n358# vdd 0
C118 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I 0.00446f
C119 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0.00296f
C120 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I 0.31368f
C121 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN 0
C122 phi_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN 0.3623f
C123 phi_1 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.02619f
C124 a_n155_n358# gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN 0.00343f
C125 phi_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I 0
C126 phi_1 vss 1.38127f
C127 clk vss 0.5765f
C128 phi_2 vss 1.05791f
C129 vdd vss 23.2605f
C130 gf180mcu_fd_sc_mcu9t5v0__inv_1_10.ZN vss 0.69576f
C131 gf180mcu_fd_sc_mcu9t5v0__inv_1_9.I vss 0.67629f
C132 gf180mcu_fd_sc_mcu9t5v0__inv_1_15.I vss 0.67166f
C133 gf180mcu_fd_sc_mcu9t5v0__inv_1_14.I vss 0.67307f
C134 gf180mcu_fd_sc_mcu9t5v0__inv_1_12.I vss 0.67392f
C135 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.I vss 0.68597f
C136 a_n155_n358# vss 0.00718f
C137 a_n715_n358# vss 0.00659f
C138 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.ZN vss 0.85412f
C139 gf180mcu_fd_sc_mcu9t5v0__nand2_1_0.ZN vss 0.71795f
C140 gf180mcu_fd_sc_mcu9t5v0__inv_1_13.ZN vss 1.29818f
C141 gf180mcu_fd_sc_mcu9t5v0__inv_1_16.ZN vss 0.55198f
C142 gf180mcu_fd_sc_mcu9t5v0__inv_1_17.ZN vss 1.49493f
C143 gf180mcu_fd_sc_mcu9t5v0__nand2_1_1.A1 vss 0.68811f
C144 gf180mcu_fd_sc_mcu9t5v0__inv_1_2.ZN vss 0.68551f
C145 gf180mcu_fd_sc_mcu9t5v0__inv_1_1.I vss 0.66502f
C146 gf180mcu_fd_sc_mcu9t5v0__inv_1_7.I vss 0.66401f
C147 gf180mcu_fd_sc_mcu9t5v0__inv_1_6.I vss 0.66438f
C148 gf180mcu_fd_sc_mcu9t5v0__inv_1_4.I vss 0.66451f
C149 gf180mcu_fd_sc_mcu9t5v0__inv_1_5.I vss 0.67655f
.ends

